2201-11-20 09:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with Parkinson's.  Presents with 2 days of fevers, cough,
   myalgias, frontal head ache.  No ill contacts.  [**Name (NI) 317**] not had H1N1.
   Came in tachypneic, desaturating.  placed on 100%NRB,
   CTX/azithro/tamiflu.  CXR with increased insterstitial markings.  This
   morning with increasing
   respiratory distress, was intubated.
   24 Hour Events:
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   CTX
   azithro
   tamiflu
   Klonopin
   asa
   bowel regiment
   sinemet
   mirapex
   hep s/q
   sertraline
   tolcapone
   risuvastatin
   protonix
   Changes to medical and family history:
   h/o cardiac disease, mitral valve prolaspe, ?RV dysfunction.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-20**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 120 (91 - 122) bpm
   BP: 135/76(87) {117/58(73) - 137/76(87)} mmHg
   RR: 54 (32 - 59) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
             3,302 mL
   PO:
             TF:
   IVF:
   302 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,502 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.43/34/131/23/0
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: mod distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), JVP>12cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   303 K/uL
   148 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   141 mEq/L
   36.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
   WBC
   13.1
   Hct
   36.0
   Plt
   303
   Cr
   1.0
   TCO2
   23
   Glucose
   148
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Respiratory failure:  PNA vs. bronchiolitis given crackles and pops on
   exam.  Continue CTX/Azitro/tamiflue.  R/O flu
   chronic RV dysfunction:  re check echo as he has impressive JVP.
   sedation:  will try fentanyl versed, as propofol not working well
   Parkinson's:  give meds through NGT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-11-20**] 02:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2201-11-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2201-11-20**] 08:30 AM
 TRANSTHORACIC ECHO - At [**2201-11-20**] 01:24 PM
 ARTERIAL LINE - START [**2201-11-20**] 04:55 PM
 ULTRASOUND - At [**2201-11-20**] 05:09 PM
   bladder/urethra u/s
 ARTERIAL LINE - STOP [**2201-11-20**] 09:28 PM
 PAN CULTURE - At [**2201-11-21**] 01:03 AM
 FEVER - 102.6
F - [**2201-11-21**] 12:00 AM
   Neurologist ([**Hospital1 54**]): Dr. [**First Name (STitle) 11023**] [**Name (STitle) 11024**] (paged to update her)
   Primary care: Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 11025**] (on [**Location (un) 1566**] St. in [**Location (un) 340**]) -
   called to update him.
   - TTE showed pulm HTN, MR
   - a-line pulled bc not working correctly
   - on fentanyl/versed, propofol d/c'ed
   - f/u respiratory viral panel negative, tamiflu d/c'ed
   - spiked 102.5 overnight, urine legionella sent, pan cultured, cxr for
   AM
   - got NS fluids
   - three way foley for clot likely after traumatic foley placement,
   urine clearning but still drawing out clots
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-11-21**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2201-11-20**] 10:00 AM
   Midazolam (Versed) - [**2201-11-20**] 11:22 AM
   Heparin Sodium (Prophylaxis) - [**2201-11-20**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-21**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.7
C (98.1
   HR: 73 (55 - 122) bpm
   BP: 112/50(64) {85/47(59) - 147/79(93)} mmHg
   RR: 13 (13 - 61) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  5,600 mL
                                                                  1,075 mL
   PO:
             TF:
   IVF:
                                                                  2,320 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    630 mL
   Urine:
                                                                  2,985 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,315 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 530 (441 - 542) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/41/86.[**Numeric Identifier 96**]/23/-1
   Ve: 7.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   GEN: Intubated, sedated, non-responsive to verbal stimuli.
   CV: RRR, no m/r/g
   PULM: Rhonchi diffusely bilaterally.
   ABD: Soft, nt, nd, +BS.
   EXTR: no edema.
   Labs / Radiology
   288 K/uL
   10.6 g/dL
   103 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   18 mg/dL
   111 mEq/L
   142 mEq/L
   33.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
   WBC
   13.1
   10.2
   Hct
   36.0
   34.0
   33.8
   Plt
   303
   288
   Cr
   1.0
   0.9
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Micro:
   Negative legionella urine
   Negative respiratory viral antigen screen
   Negative DFA flu A&B
   Sputum: 1+ GNR
   Cultures all pending.
   Urine: blood large, without evidence of infection
   CXR: increased blossoming of right lower lobe infiltrate and more
   crowding of left hilum, and b/l effusions (my read).
   Bladder U/S: IMPRESSION: Mixed echogenic material within the dependent
   portion of the bladder. No definite color flow. These findings are most
   suggestive of clot, although underlying mass lesion cannot be entirely
   excluded. Short-term interval followup or direct visualization with
   cystoscopy is recommended.
   TTE: Suboptimal image quality. Well seated mitral annuloplasty ring
   with increased gradient and mild mitral stenosis. Moderate puomonary
   artery systolic hypertension. Right ventricular cavity enlargement with
   mild free wall hypokinesis.
   Compared with the prior study (images reviewed) of [**2199-10-24**], the
   transmitral gradient is lower, but with smaller estimated mitral valve
   area. The right ventricular cavity is slightly larger now with free
   wall hypokinesis. The estimated pulmonary artery systolic pressure is
   similar.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS: Hematuria
   ASSESSMENT/PLAN: 61 yoM with PD/DBS's and h/o MVP, admitted with two
   days of ILI and difficulty breathing, now intubated for
   tachypnea/fatigue.
   #. ILI: intubated on [**11-20**] for respiratory fatigue/tachypnea. Tolerating
   ventilator well (see ABG
s). Spiked fever again o/n.
   -- f/u cultures from blood, sputum, urine; re-culture today if spikes
   another temp
   -- given GNR in sputum, consider changing ceftriaxone to cefepime to
   cover pseudomonas if clinically deteriotes
   -- supportive tx with tylenol PRN
   -- ipratropium and albuterol nebs prn
   -- wean FiO2 as tolerated; continue on fentanyl, versed
 but wean
   sedation as tolerated
   -- not weaning vent presently as copious beige frothy secretions
   -- 20 IV lasix this morning
   -- goal negative 1-2L today
   .
   #. PROBABLE PNEUMONIA:
   -- cont azithromycin and ceftriaxone for CAP
   -- CXR tomorrow AM
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED
   -- hold IVF
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u any neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved this AM compared to yesterday.
   -- 3-way Foley in place, continue irrigation
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   #. ACCESS: Peripheral IV
s (2).
   .
   #. NUTRITION: NPO
   .
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed as
   well with PD)
   .
   #. CONTACT: with patient; is married, wife is very involved and her
   phone #s are in personalized team census
   .
   #. DISPO: ICU as intubated
   ICU Care
   Lines:
   18 Gauge - [**2201-11-20**] 02:11 AM

2201-11-21 13:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx reviewed, intubated for resp distress
   24 Hour Events:
 INVASIVE VENTILATION - START [**2201-11-20**] 08:30 AM
 TRANSTHORACIC ECHO - At [**2201-11-20**] 01:24 PM
 ARTERIAL LINE - START [**2201-11-20**] 04:55 PM
 ULTRASOUND - At [**2201-11-20**] 05:09 PM
   bladder/urethra u/s
 ARTERIAL LINE - STOP [**2201-11-20**] 09:28 PM
 PAN CULTURE - At [**2201-11-21**] 01:03 AM
 FEVER - 102.6
F - [**2201-11-21**] 12:00 AM
   intubated yesterday.echo showed increased [**MD Number(3) 11029**]. a-line pulled.
   Hematuria ? due to foley placement. u/s bladder showing clot, now 3-way
   foley. spiked 102.6, pancultured. Patient's neurologist Dr [**First Name (STitle) 11024**]
   consulted, park meds continued. Flu DFA negative, tamiflu d/c'd.
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-11-21**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-20**] 11:38 PM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-21**] 01:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.6
C (99.7
   HR: 86 (55 - 90) bpm
   BP: 125/57(72) {95/47(59) - 141/79(93)} mmHg
   RR: 24 (13 - 48) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  5,600 mL
                                                                  1,289 mL
   PO:
             TF:
   IVF:
                                                                  2,320 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    915 mL
   Urine:
                                                                  2,985 mL
                                                                    890 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                  2,315 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 509 (441 - 542) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.37/41/86.[**Numeric Identifier 96**]/23/-1
   Ve: 12.1 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   288 K/uL
   103 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   18 mg/dL
   111 mEq/L
   142 mEq/L
   33.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
   WBC
   13.1
   10.2
   Hct
   36.0
   34.0
   33.8
   Plt
   303
   288
   Cr
   1.0
   0.9
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Fluid analysis / Other labs: u/a blood only
   Imaging: CXR shows bilat lower lung haziness, blunted R CPA,  full left
   hilum, no kerleys, ? bilat effusions
   Bladder u/s
   Microbiology: Leg neg
   Flu A/B neg
   RSV neg
   sputum 1+ GNR - culture pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   Acute respiratory failure:  PNA vs. bronchiolitis given crackles and
   pops on exam.  Gram negatives in sputum. Continue CTX/Azithro. Flu
   ruled out by DFA. Not ready for extubation due to secretions. Not
   requiring high FiO2 or peep. Goal to keep negative 1-2 L if tolerated
   Chronic RV dysfunction with pHTN.
   sedation:  will try fentanyl and versed (will wean as tolerated)
   Parkinson's:  give meds through NGT. Avoid all neuroleptics given PD
   Hematuria: improving with 3 way foley
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: 18 Gauge - [**2201-11-20**] 02:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB>30
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2201-11-22 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2201-11-21**] 02:00 PM
   spiked to 103.2 mid-day, pancultured, changed ceftriaxone to cefepime
   (has GNR in sputum, so want to cover pseudomonas until culture grows)
   gave lasix to aim for goal of 1-2L negative as was even at midnight,
   did not met goal
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-11-21**] 12:00 AM
   Azithromycin
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl 50
   Other ICU medications:
   Furosemide (Lasix) - [**2201-11-22**] 01:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38.8
C (101.8
   HR: 83 (69 - 89) bpm
   BP: 103/48(62) {103/47(62) - 160/83(93)} mmHg
   RR: 21 (10 - 43) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,630 mL
                                                                    246 mL
   PO:
             TF:
   IVF:
                                                                  1,275 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                  1,060 mL
   Urine:
                                                                  1,915 mL
                                                                  1,060 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -814 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (394 - 534) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 12 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 10.8 L/min
   Physical Examination
   GEN: Sedated, but opens eyes to tactile stimuli but without true
   purpose/tracking.
   CV: RRR, no m/r/g
   PULM: Rhonchi b/l anterior
   ABD: +BS, soft, nt
   EXTR: no edema
   Labs / Radiology
   288 K/uL
   10.5 g/dL
   97 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   143 mEq/L
   31.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
   WBC
   13.1
   10.2
   10.6
   Hct
   36.0
   34.0
   33.8
   31.5
   Plt
   [**Telephone/Fax (3) 11035**]
   Cr
   1.0
   0.9
   1.1
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Imaging: CXR:
   Microbiology: Sputum [**11-21**]:
   one with 1+GNR
   one without microorganisms on gram stain
   -cultures pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   ASSESSMENT/PLAN: 61 yoM with PD/DBS's and h/o MVP, admitted with two
   days of ILI and difficulty breathing, now intubated for
   tachypnea/fatigue.
   #. ILI: intubated on [**11-20**] for respiratory fatigue/tachypnea. Tolerating
   ventilator well (see ABG
s). Spiked fever again yesterday.
   -- f/u cultures from blood, sputum, urine; re-culture today if spikes
   another temp
   -- continue azithromycin and cefepime (given GNR in sputum, to cover
   for pseudomonas)
   -- ipratropium and albuterol nebs prn
   -- continue on fentanyl, versed
 but wean sedation virogously as
   tolerated
   -- on SBT now, consider extubation pending mental status and ability to
   manage copious beige frothy secretions
   -- 40mg IV lasix now; goal negative 1-1.5L today  (reassess in pm and
   potentially re-dose as needed)
   .
   #. PROBABLE PNEUMONIA:
   -- cont azithromycin and cefepime for CAP
   -- CXR tomorrow AM
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED
   -- hold IVF; lasix and diuresis as above
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u any neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved this AM compared to yesterday.
   -- 3-way Foley in place, continue irrigation
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   #. ACCESS: Peripheral IV
s (2).
   .
   #. NUTRITION: NPO
   .
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed as
   well with PD)
   .
   #. CONTACT: with patient; is married, wife is very involved and her
   phone #s are in personalized team census
   .
   #. DISPO: ICU as intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-11-20**] 02:11 AM
   20 Gauge - [**2201-11-21**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-11-22 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.1
F - [**2201-11-21**] 02:00 PM
   Spiked, pancultured, now on Cefepime/azithro
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-11-21**] 12:00 AM
   Cefipime - [**2201-11-22**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-11-22**] 01:50 AM
   Heparin Sodium (Prophylaxis) - [**2201-11-22**] 08:15 AM
   Other medications:
   reviewed- sch, pramipex, asa, rosuvastatin, sinemet, lansop
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-22**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.6
C (99.6
   HR: 77 (69 - 89) bpm
   BP: 114/51(67) {99/44(58) - 160/83(93)} mmHg
   RR: 17 (10 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,630 mL
                                                                    413 mL
   PO:
             TF:
   IVF:
                                                                  1,275 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    840 mL
   Urine:
                                                                  1,915 mL
                                                                    840 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 382 (382 - 509) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, arousable
   Labs / Radiology
   10.5 g/dL
   288 K/uL
   97 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   143 mEq/L
   31.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
   WBC
   13.1
   10.2
   10.6
   Hct
   36.0
   34.0
   33.8
   31.5
   Plt
   [**Telephone/Fax (3) 11035**]
   Cr
   1.0
   0.9
   1.1
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Imaging: CXR reviewed . pulm edema, ETT good position, opacified left
   hemidiaph, OG in stomach
   Microbiology: [**11-21**] sputum GNR, cx pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Acute respiratory failure:  PNA vs. bronchiolitis, on Abx.  Gram
   negatives in sputum. Continue CTX/Azithro. Flu ruled out by DFA. Not
   ready for extubation due to copious secretions though mechanically
   ready. Diurese today with goal to keep negative 1-2 L
   Chronic RV dysfunction with pHTN.
   sedation:  will decrease fentanyl and versed today
   Parkinson's:  give meds through NGT. Avoid all neuroleptics given PD
   Hematuria: improving with 3 way foley
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-11-20**] 02:11 AM
   20 Gauge - [**2201-11-21**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Wife being updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2201-11-23 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ILI
   24 Hour Events:
 FEVER - 101.2
F - [**2201-11-23**] 04:00 AM - pan cultured
   -patient weaned from IV sedation and still very somnolent.  Need to ask
   neuro if this is expected from Parkinson's.
   - should be ready to wean except for sedation.
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Ceftriaxone - [**2201-11-21**] 12:00 AM
   Cefipime - [**2201-11-23**] 05:08 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-11-22**] 10:55 AM
   Heparin Sodium (Prophylaxis) - [**2201-11-22**] 11:28 PM
   Fentanyl - [**2201-11-23**] 05:10 AM
   Midazolam (Versed) - [**2201-11-23**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-23**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 79 (71 - 84) bpm
   BP: 116/50(66) {99/43(58) - 127/60(75)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,127 mL
                                                                    156 mL
   PO:
             TF:
   IVF:
                                                                    387 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    565 mL
   Urine:
                                                                  2,545 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,418 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (87 - 470) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 117
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   10.5 g/dL
   98 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   25 mg/dL
   107 mEq/L
   144 mEq/L
   33.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
   WBC
   13.1
   10.2
   10.6
   12.8
   Hct
   36.0
   34.0
   33.8
   31.5
   33.7
   Plt
   [**Telephone/Fax (3) 11050**]57
   Cr
   1.0
   0.9
   1.1
   1.1
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   98
   Other labs: PT / PTT / INR:14.1/31.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CXR [**2201-11-22**]
   In comparison with the study of [**11-21**], the endotracheal tube is now
   about 5 cm above the carina. Nasogastric tube extends well into the
   stomach.
   Little change in the appearance of the cardiomediastinal silhouette and
   intact
   midline wire sutures. Persistent pulmonary edema with bilateral pleural
   effusions and left retrocardiac atelectasis.
   CXR [**2201-11-23**] unread
   Microbiology: B cxrs from [**2201-11-21**], [**2201-11-23**] pending
   Sputum cxr [**2201-11-21**]:  GRAM STAIN (Final [**2201-11-21**]):  >25 PMNs and <10
   epithelial cells/100X field.  1+    (<1 per 1000X FIELD):   GRAM
   NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   Resp viral screen/cxr: neg
   Influenza A & B DFA: neg
   Assessment and Plan
    61 yoM with PD/DBS's and h/o MVP, admitted with two days of ILI and
   difficulty breathing, now intubated for tachypnea/fatigue.
   #. ILI: intubated on [**11-20**] for respiratory fatigue/tachypnea. Tolerating
   ventilator well (see ABG
s). Spiked fever again overnight.
   -- f/u cultures from blood, sputum, urine; re-culture today if spikes
   another temp
   -- continue azithromycin and cefepime (given GNR in sputum, to cover
   for pseudomonas)
   -- ipratropium and albuterol nebs prn
   -- continue on fentanyl, versed
 but wean sedation virogously as
   tolerated
   -- on SBT now, consider extubation pending mental status and ability to
   manage copious beige frothy secretions
   -- 40mg IV lasix now; goal negative 1-1.5L today  (reassess in pm and
   potentially re-dose as needed)
   .
   #. PROBABLE PNEUMONIA:
   -- cont azithromycin and cefepime for CAP
   -- CXR done this AM
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED
   -- hold IVF; lasix and diuresis as above
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u any neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved this AM compared to yesterday.
   -- 3-way Foley in place, continue irrigation
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   .
   #. ACCESS: Peripheral IV
s (2).
   .
   #. NUTRITION: NPO
   .
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed as
   well with PD)
   .
   #. CONTACT: with patient; is married, wife is very involved and her
   phone #s are in personalized team census
   .
   #. DISPO: ICU as intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2201-11-20**] 02:11 AM
   20 Gauge - [**2201-11-21**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-11-24 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumona, respiratory failure
   24 Hour Events:
   - pt very somnolent so discontinued fentanyl, versed drips; pt then
   became very agitated--? withdrawal; started pt on propofal drip and
   fentanyl, versed bolus sedation
   - fever yesterrday AM, added Vanc to broaden abx coverage to cover MRSA
   - goal I/O even
   - continuous bladder irrigation turned off as pt only passed one small
   clot today
   - nutrition c/s for tube feed recs:
           - Multivitamin / Mineral supplement: via tube feeds
           - Tube feeding recommendations: Can start Fibersource HN @
   15mL/hr to increase 10mL q4  hr, to goal 65mL/hr (1872 kcals/83 gr
   protein)
           - Residual checks q4 hr, hold if >200mL
           - Would have low threshold for increasing bowel regimen once
   feeds begin given h/o chronic constipation
           - Lyte management as you are
           - Start RISS FSBG >150mg/dL
           - Change diet order to NPO
   - per respiratory, RSBI-114
   At 0430, pt was removed from sedation in order to perform a RSBI/SBT.
   Pt became extremely agitated, biting on his ETT and breathing in the
   40
s. RSBI was obtained to be 114. Pt agitation did not cease so
   sedation was restarted. Perhaps later we could try placing him on
   precidex for his agitation and extubating that way.
   - Sent SPUTUM CULTURE - At [**2201-11-23**] 12:00 PM
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Vancomycin - [**2201-11-23**] 08:20 PM
   Cefipime - [**2201-11-24**] 05:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-23**] 04:00 PM
   Fentanyl - [**2201-11-23**] 10:17 PM
   Midazolam (Versed) - [**2201-11-23**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-24**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 80 (62 - 85) bpm
   BP: 136/66(84) {111/49(64) - 145/94(106)} mmHg
   RR: 27 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,068 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                    668 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    245 mL
   Urine:
                                                                  2,460 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,392 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (341 - 435) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   348 K/uL
   10.5 g/dL
   120 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   27 mg/dL
   109 mEq/L
   146 mEq/L
   33.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
   WBC
   13.1
   10.2
   10.6
   12.8
   13.4
   Hct
   36.0
   34.0
   33.8
   31.5
   33.7
   33.8
   Plt
   [**Telephone/Fax (3) 11050**]57
   348
   Cr
   1.0
   0.9
   1.1
   1.1
   1.0
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   98
   120
   Other labs: PT / PTT / INR:13.8/40.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.2 mg/dL
   Imaging: CXR [**11-24**] done
   CXR [**11-23**] The bilateral parenchymal opacities appear minimally less
   severe than on the previous examination. On the left, small pleural
   effusion could still be present. No newly occurred focal parenchymal
   opacities. Unchanged size of the cardiac silhouette.
   Microbiology: [**11-23**] sputum: GRAM STAIN (Final [**2201-11-23**]):   >25 PMNs and
   <10 epithelial cells/100X field.  NO MICROORGANISMS SEEN.
   cuture pending
   B cxrs [**11-21**], [**11-23**] pending
   Legionella negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61 yoM with PD/DBS's and h/o MVP, admitted with two days of ILI and
   difficulty breathing, now intubated for tachypnea/fatigue.
   #. ILI: intubated on [**11-20**] for respiratory fatigue/tachypnea. Tolerating
   ventilator well (see ABG
s). Spiked fever again overnight.
   -- f/u cultures from blood, sputum, urine; re-culture today if spikes
   another temp
   -- continue azithromycin and cefepime (given GNR in sputum, to cover
   for pseudomonas).
   -- added Vanc to cover MRSA pneumonia, given copious secretions
   -- ipratropium and albuterol nebs prn
   --add propofol drip and bolus fentanyl, versed prn for sedation
   -- consider extubation pending mental status and ability to manage
   copious beige frothy secretions.
   .
   #. PROBABLE PNEUMONIA:
   -- cont azithromycin and cefepime for CAP; adding vanco today ([**11-23**])
   -- CXR done this AM
   --Send another sputum sample for culture
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED.
   -- hold IVF
   --pt appears relatively euvolemic today so hold diuretics.
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u any neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved this AM compared to yesterday.
   -- 3-way Foley in place, continue irrigation
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   .
   #. ACCESS: Peripheral IV
s (2)..
   #. NUTRITION: place OGT, consult nutrition for tube feed recs .
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed as
   well with PD).
   #. CONTACT: with patient; is married, wife is very involved and her
   phone #s are in personalized team census.
   #. DISPO: ICU as intubated

2201-11-24 10:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI 117 this AM.  Agitated with spont awakening this AM
   Off Fent/midaz and on propofol
   24 Hour Events:
 SPUTUM CULTURE - At [**2201-11-23**] 12:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-24**] 05:03 AM
   Vancomycin - [**2201-11-24**] 08:09 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-23**] 04:00 PM
   Fentanyl - [**2201-11-23**] 10:17 PM
   Midazolam (Versed) - [**2201-11-23**] 11:19 PM
   Other medications:
   per ICU
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-11-24**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 73 (62 - 85) bpm
   BP: 127/65(81) {111/49(64) - 145/94(106)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,068 mL
                                                                    606 mL
   PO:
             TF:
   IVF:
                                                                    668 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    410 mL
   Urine:
                                                                  2,460 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,392 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 359 (341 - 435) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 114
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   348 K/uL
   120 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   27 mg/dL
   109 mEq/L
   146 mEq/L
   33.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
   WBC
   13.1
   10.2
   10.6
   12.8
   13.4
   Hct
   36.0
   34.0
   33.8
   31.5
   33.7
   33.8
   Plt
   [**Telephone/Fax (3) 11050**]57
   348
   Cr
   1.0
   0.9
   1.1
   1.1
   1.0
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   98
   120
   Other labs: PT / PTT / INR:13.8/40.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   61 yo man with Parkinson's, PA-HTN on echo here with hypoxemic
   respiratory failure due to likely pneumonia
   Acute respiratory failure:  Continue vanc/CTX/Azithro. RBBI > 105
   today, secretions and sedation remain an issue.  Bronch today for
   therapeutic aspiration and BAL.
   Parkinson's:  meds through NGT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-23**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2201-11-25 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-11-24**] 03:00 PM
 SPUTUM CULTURE - At [**2201-11-24**] 04:30 PM
   sent with bal from bronch
 BLOOD CULTURED - At [**2201-11-24**] 04:56 PM
   venipuncture x2
 URINE CULTURE - At [**2201-11-24**] 04:57 PM
 FEVER - 101.5
F - [**2201-11-24**] 04:00 PM
   - s/p bronch
   - TF's and RISS started
   - anxious, thrashing, crying on SBT settings in setting of lightening,
   very agitated; consider presedex?
   - minimal secretions, improved
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Vancomycin - [**2201-11-24**] 08:48 PM
   Cefipime - [**2201-11-25**] 06:24 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2201-11-25**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-25**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.4
C (99.3
   HR: 71 (66 - 81) bpm
   BP: 122/68(81) {100/54(67) - 139/74(89)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,027 mL
                                                                    403 mL
   PO:
             TF:
                                                                     85 mL
                                                                     20 mL
   IVF:
                                                                  1,192 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    270 mL
   Urine:
                                                                    930 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,097 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (324 - 365) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 11.1 L/min
   Physical Examination
   GEN: Sedated, NAD
   CV: RRR, no murmurs
   PULM: Mild rales b/l, improved
   ABD: Soft, NT, +BS, ND
   EXTR: No edema
   Labs / Radiology
   409 K/uL
   10.3 g/dL
   144 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.6 mEq/L
   22 mg/dL
   109 mEq/L
   146 mEq/L
   33.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
   WBC
   13.1
   10.2
   10.6
   12.8
   13.4
   11.3
   Hct
   36.0
   34.0
   33.8
   31.5
   33.7
   33.8
   33.4
   Plt
   [**Telephone/Fax (3) 11050**]57
   348
   409
   Cr
   1.0
   0.9
   1.1
   1.1
   1.0
   0.9
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   98
   120
   144
   Other labs: PT / PTT / INR:13.8/40.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
   61 y/o male with PD/DBS's and h/o MVP, admitted with two days of ILI
   and difficulty breathing, now intubated for tachypnea/fatigue.
   #. Pneumonia: intubated on [**11-20**] for respiratory fatigue/tachypnea.
   Tolerating ventilator well (see ABG
   -- f/u cultures from bronchoscopy ([**11-24**]), blood, sputum, urine
   -- re-culture later today if spikes another temp
   -- on [**11-24**] completed 5-day azithromycin course
   -- continue cefepime (given GNR in sputum, to cover for pseudomonas)
   (started with ceftriaxone first on day of admission) and vancomycin
   (started [**11-23**]) (to cover MRSA pneumonia, given copious secretions)
   -- ipratropium and albuterol nebs prn
   -- f/u read of daily CXR
   Extubation plans:
   -- start presedex this morning to help with anxiety, wean down propofol
   then as tolerated
   -- clonopin [**Hospital1 **] prn anxiety to help w/ extubation plans
   -- bolus fentanyl and midazolam prn
   -- consider extubation pending mental status, improved anxiety, and
   ability to manage improved secretions
   -- given decr. WBC and decr. fever curve (albeit still febrile) and
   decr. secretions, hold on U/S or CT to look for empyema
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED.
   -- hold IVF
   --pt appears relatively euvolemic today so hold diuretics
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved. S/p 3-way Foley. Continuous bladder
   irrigation turned off.
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   -- added clonopin [**Hospital1 **] prn as prep for extubation attempt
   .
   #. ACCESS: Peripheral IV
s (2).
   #. NUTRITION: Started tube feeds and RISS based on nutrition recs
   yesterday. Holding TF
s for now, given potential PM extubation. Check
   PM sodium, if still elevated, consider free water flush of 100mL q6h
   through NG tube.
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed d/t
   PD; had BM
s yesterday).
   #. CONTACT: With patient. Is married, wife is very involved and her
   phone #s are listed in personalized team census.
   #. DISPO: ICU as intubated.
   ICU Care
   Lines:
   2 peripherals:
   20 Gauge - [**2201-11-23**] 06:30 PM
   Code status: Full code

2201-11-25 09:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bronch yesterday - minimal secretions.
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-11-24**] 03:00 PM
 SPUTUM CULTURE - At [**2201-11-24**] 04:30 PM
   sent with bal from bronch
 BLOOD CULTURED - At [**2201-11-24**] 04:56 PM
   venipuncture x2
 URINE CULTURE - At [**2201-11-24**] 04:57 PM
 FEVER - 101.5
F - [**2201-11-24**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-25**] 06:24 AM
   Vancomycin - [**2201-11-25**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-25**] 08:00 AM
   Lansoprazole (Prevacid) - [**2201-11-25**] 08:00 AM
   Propofol - [**2201-11-25**] 08:30 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-11-25**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (101
   HR: 70 (66 - 81) bpm
   BP: 106/52(65) {100/52(65) - 141/74(95)} mmHg
   RR: 23 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,027 mL
                                                                    792 mL
   PO:
             TF:
                                                                     85 mL
                                                                     20 mL
   IVF:
                                                                  1,192 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    410 mL
   Urine:
                                                                    930 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,097 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (323 - 365) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   409 K/uL
   144 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.6 mEq/L
   22 mg/dL
   109 mEq/L
   146 mEq/L
   33.4 %
   11.3 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:45 AM
                             [**2201-11-20**]  06:52 AM
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
   WBC
   13.1
   10.2
   10.6
   12.8
   13.4
   11.3
   Hct
   36.0
   34.0
   33.8
   31.5
   33.7
   33.8
   33.4
   Plt
   [**Telephone/Fax (3) 11050**]57
   348
   409
   Cr
   1.0
   0.9
   1.1
   1.1
   1.0
   0.9
   TCO2
   23
   23
   25
   Glucose
   148
   92
   99
   103
   97
   98
   120
   144
   Other labs: PT / PTT / INR:13.8/40.3/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   61 yo man with Parkinson's, PA-HTN on echo here with hypoxemic
   respiratory failure due to likely pneumonia
   Acute respiratory failure:  Continue vanc/CTX.  RSBI < 105 today (98),
   secretions.  Will switch sedation over to Precidex, restart home
   benzos, wean propofol, and aim for extubation today.
   Fever: Abx as above.  Still febrile but general trend seems to have
   improved since starting vanco as well as improvement in secretions.
   Parkinson's:  meds through NGT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-23**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2201-11-26 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-11-25**] 12:15 PM
 BLOOD CULTURED - At [**2201-11-26**] 03:41 AM
 FEVER - 101.5
F - [**2201-11-26**] 12:00 AM
   -pt extubated.
   -Due to increased RR, pt seemed somewhat fatigued w. fairly profuse
   secretions, gave Lasix 20mg IV to increase UOP w. goal negative 200 by
   0000.
   - speech & swallow, PT c/s placed.
   - pt will likely need PICC placement for longterm abx tx for PNA, but
   as pt w. fevers within last day (T 101.5 [**11-24**] 1600, T 101 [**11-25**] 0800)
   will need to wait 48hours from last fever ([**11-27**] 0800) for IV PICC c/s.
   -monitoring Na as pt w. rising sodium over last 5 days (141 -> 146).
   Will encourage PO fluids after swallow study.
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Vancomycin - [**2201-11-25**] 08:30 PM
   Cefipime - [**2201-11-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2201-11-25**] 08:00 AM
   Propofol - [**2201-11-25**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2201-11-25**] 04:21 PM
   Furosemide (Lasix) - [**2201-11-25**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-26**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.5
   HR: 65 (65 - 92) bpm
   BP: 109/50(112) {103/41(58) - 138/83(112)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,703 mL
                                                                    249 mL
   PO:
             TF:
                                                                     20 mL
   IVF:
                                                                    668 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  2,015 mL
                                                                    440 mL
   Urine:
                                                                  2,015 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -312 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 356 (323 - 356) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: 7.43/47/86/32/5
   Ve: 11.9 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: GEN: Sedated, NAD
   CV: RRR, no murmurs
   PULM: Mild rales b/l, improved
   ABD: Soft, NT, +BS, ND
   EXTR: No edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   431 K/uL
   10.4 g/dL
   113 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.0 mEq/L
   18 mg/dL
   104 mEq/L
   144 mEq/L
   31.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   Hct
   34.0
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   Plt
   288
   288
   357
   348
   409
   431
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   TCO2
   23
   25
   32
   Glucose
   92
   99
   103
   97
   98
   120
   144
   113
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: [**11-26**] cxr - (my read) improved diffuse b/l infiltrates
   Microbiology: [**11-24**], [**11-26**], [**11-21**] bcx ntd
   [**11-24**] ucx ntd
   [**2201-11-24**] 3:47 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2201-11-24**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
   61 y/o male with PD/DBS's and h/o MVP, admitted with two days of ILI
   and difficulty breathing, now intubated for tachypnea/fatigue.
   #. Pneumonia: intubated on [**11-20**] for respiratory fatigue/tachypnea.
   Tolerating ventilator well (see ABG
   -- f/u cultures from bronchoscopy ([**11-24**]), blood, sputum, urine
   -- re-culture later today if spikes another temp
   -- on [**11-24**] completed 5-day azithromycin course
   -- continue cefepime (given GNR in sputum, to cover for pseudomonas)
   (started with ceftriaxone first on day of admission) and vancomycin
   (started [**11-23**]) (to cover MRSA pneumonia, given copious secretions)
   -- ipratropium and albuterol nebs prn
   -- f/u read of daily CXR
   Extubation plans:
   -- start presedex this morning to help with anxiety, wean down propofol
   then as tolerated
   -- clonopin [**Hospital1 **] prn anxiety to help w/ extubation plans
   -- bolus fentanyl and midazolam prn
   -- consider extubation pending mental status, improved anxiety, and
   ability to manage improved secretions
   -- given decr. WBC and decr. fever curve (albeit still febrile) and
   decr. secretions, hold on U/S or CT to look for empyema
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED.
   -- hold IVF
   --pt appears relatively euvolemic today so hold diuretics
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved. S/p 3-way Foley. Continuous bladder
   irrigation turned off.
   .
   #. ANXIETY:
   -- cont home klonopin PRN, Zoloft
   -- added clonopin [**Hospital1 **] prn as prep for extubation attempt
   .
   #. ACCESS: Peripheral IV
s (2).
   #. NUTRITION: Started tube feeds and RISS based on nutrition recs
   yesterday. Holding TF
s for now, given potential PM extubation. Check
   PM sodium, if still elevated, consider free water flush of 100mL q6h
   through NG tube.
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed d/t
   PD; had BM
s yesterday).
   #. CONTACT: With patient. Is married, wife is very involved and her
   phone #s are listed in personalized team census.
   #. DISPO: ICU as intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-23**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-11-26 11:05:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure, Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday and did well overnight
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-11-25**] 12:15 PM
 BLOOD CULTURED - At [**2201-11-26**] 03:41 AM
 FEVER - 101.5
F - [**2201-11-26**] 12:00 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-26**] 06:00 AM
   Vancomycin - [**2201-11-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-25**] 04:21 PM
   Furosemide (Lasix) - [**2201-11-25**] 06:30 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-11-26**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.6
C (97.9
   HR: 70 (62 - 92) bpm
   BP: 113/60(74) {109/41(58) - 138/83(112)} mmHg
   RR: 23 (19 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,703 mL
                                                                    598 mL
   PO:
             TF:
                                                                     20 mL
                                                                      4 mL
   IVF:
                                                                    668 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  2,015 mL
                                                                    555 mL
   Urine:
                                                                  2,015 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -312 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 356 (356 - 356) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.43/47/86/32/5
   Ve: 11.9 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Distended, Tender: mildly throughout, no rebound
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversant
   Labs / Radiology
   10.4 g/dL
   431 K/uL
   113 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.0 mEq/L
   18 mg/dL
   104 mEq/L
   144 mEq/L
   31.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2201-11-20**]  02:49 PM
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   Hct
   34.0
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   Plt
   288
   288
   357
   348
   409
   431
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   TCO2
   23
   25
   32
   Glucose
   92
   99
   103
   97
   98
   120
   144
   113
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   61 yo man with Parkinson's, PA-HTN on echo here with hypoxemic
   respiratory failure due to likely pneumonia
   Acute respiratory failure: Now extuabted and doing better.  Still
   requiring O2 by shovel mask - will reeval in afternoon for suitability
   for the floor. Continue vanc/CTX.
   Fever: Abx as above.  remains febrile
   Parkinson's:  meds through NGT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-11-26**] 10:45 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-23**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2201-11-27 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumonia, respiratory distress, parkinson's disease
   24 Hour Events:
   - C. diff ordered given fever and leukocytosis
   - Tube feeds on
   - failed S&S eval yesterday, pt
s main complaint this AM requesting a
   cup of tea
   - On 6L NC with SpO2 90-98%
   - This AM, pt with subjective SOB, dropped O2 sats and tachypnia.
   Sounded wheezy on exam, appeared anxious.  Pt given neb, Lasix and
   morphine with improvement within 10 minutes.
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Vancomycin - [**2201-11-26**] 08:24 PM
   Cefipime - [**2201-11-27**] 05:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-27**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2201-11-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 89 (62 - 102) bpm
   BP: 121/76(82) {90/47(63) - 134/93(99)} mmHg
   RR: 22 (19 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,788 mL
                                                                    657 mL
   PO:
             TF:
                                                                    526 mL
                                                                    302 mL
   IVF:
                                                                    691 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                    245 mL
   Urine:
                                                                  1,175 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    613 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   GEN: NAD
   CV: RRR, no murmurs
   PULM: wheezes bilat, L>R, rhonchi bilat L>R
   ABD: Soft, NT, mildly distended, +BS
   EXTR: No edema
   Labs / Radiology
   425 K/uL
   10.0 g/dL
   143 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   145 mEq/L
   30.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
                            [**2201-11-27**]  03:21 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   15.3
   Hct
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   30.5
   Plt
   288
   288
   357
   348
   409
   431
   425
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   0.9
   TCO2
   23
   25
   32
   Glucose
   92
   99
   103
   97
   98
   120
   144
   113
   143
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs:
   Microbiology: None new
   Radiology: CXR [**11-26**]
   The endotracheal tube has been removed in the interval. The
   nasogastric tube is in unchanged position. The ventilation of the lung
   parenchyma is slightly improved, with slightly increased lung volumes.
   However, the pre-existing bilateral focal parenchymal opacities show
   clear
   visibility despite a small reduction in extent. There is no evidence of
   pleural effusion. Unchanged size of the cardiac silhouette.
   CXR [**11-27**] relatively [**Name2 (NI) 11087**]
   Assessment and Plan
   61 y/o male with PD/DBS's and h/o MVP, admitted with two days of ILI
   and difficulty breathing, now intubated for tachypnea/fatigue with
   pneumonia.
   #. Pneumonia/respiratory distress: intubated on [**11-20**] for respiratory
   fatigue/tachypnea. Tolerating ventilator well (see ABG
s), extubated
   [**11-25**].
   -- Continue cefepime (given GNR in sputum, to cover for pseudomonas)
   (started with ceftriaxone first on day of admission) and vancomycin
   (started [**11-23**]) (to cover MRSA pneumonia, given copious secretions)
   -- ipratropium and albuterol nebs prn
   -- f/u cultures from bronchoscopy ([**11-24**]), blood, sputum, urine
   -- On [**11-24**], completed 5-day azithromycin course
   -- will closely monitor volume status and give Lasix prn as below.
   --likely anxiety component to episodes of resp distress, will give
   Morphine prn.
   .
   #. Diarrhea:  Patient with loose stool, fever, leukocytosis.
   - C. diff stool studies ordered, not yet sent
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED.
   --Lasix given this AM as pt w. incr respiratory distress, wheezy on
   exam (? Cardiogenic wheeze), and pos fluid balance yesterday with
   improvement,
   -- will closely monitor volume status and give Lasix prn respiratory
   distress
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   #. ANXIETY:
   -- cont home, Zoloft
   -- D/C clonopin [**Hospital1 **] prn now that patient extubated
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved. S/p 3-way Foley. Continuous bladder
   irrigation turned off.
   .
   #. ACCESS: Peripheral IV
s (2). Will consider PICC when afebrile x 2
   days.
   #. NUTRITION: Started tube feeds and RISS based on nutrition recs
   yesterday. Holding TF
s for now, given potential PM extubation. Check
   PM sodium, if still elevated, consider free water flush of 100mL q6h
   through NG tube.
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed d/t
   PD; had BM
s yesterday).
   #. CONTACT: With patient. Is married, wife is very involved and her
   phone #s are listed in personalized team census.
   #. DISPO: ICU as intubated.

2201-11-27 11:21:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints at the moment
   24 Hour Events:
   Had episode of tachypnea this AM that responded to morphine and lasix
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-27**] 05:28 AM
   Vancomycin - [**2201-11-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-27**] 08:00 AM
   Furosemide (Lasix) - [**2201-11-27**] 08:35 AM
   Morphine Sulfate - [**2201-11-27**] 08:35 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-11-27**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 88 (73 - 122) bpm
   BP: 116/61(75) {90/47(63) - 134/93(99)} mmHg
   RR: 28 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,788 mL
                                                                  1,107 mL
   PO:
             TF:
                                                                    526 mL
                                                                    362 mL
   IVF:
                                                                    691 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  1,175 mL
                                                                  1,705 mL
   Urine:
                                                                  1,175 mL
                                                                  1,705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    613 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   425 K/uL
   143 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   145 mEq/L
   30.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2201-11-20**]  05:01 PM
                             [**2201-11-21**]  01:04 AM
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
                            [**2201-11-27**]  03:21 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   15.3
   Hct
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   30.5
   Plt
   288
   288
   357
   348
   409
   431
   425
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   0.9
   TCO2
   23
   25
   32
   Glucose
   92
   99
   103
   97
   98
   120
   144
   113
   143
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   61 yo man with Parkinson's, PA-HTN on echo here with hypoxemic
   respiratory failure due to likely pneumonia
   Acute respiratory failure: Now extuabted and doing better overall but
   still with episodes of tachypnea. Diuresed overnight, will give
   morphine prn.  Cont vanc/cefepime.  Will continue to keep him in the
   ICU given his frequent episodes of tachypnea.
   Fever: Fever curve trending down
   Parkinson's:  meds through NGT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-11-26**] 10:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-26**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2201-11-28 09:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2201-11-27**] 09:05 PM
 URINE CULTURE - At [**2201-11-27**] 09:05 PM
   - resp distress in AM- tried nebs, lasix 20, morphine - improved (think
   anxiety was big component +/- fluid overload)
   - ok per patient
s neurologist and neurosurgeon (both responded
   favorably through email) to place PICC, even in setting of DBS
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-27**] 06:00 PM
   Vancomycin - [**2201-11-28**] 08:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-11-28**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 89 (69 - 113) bpm
   BP: 127/67(80) {87/45(54) - 143/84(118)} mmHg
   RR: 21 (16 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,308 mL
                                                                    460 mL
   PO:
             TF:
                                                                    903 mL
   IVF:
                                                                    535 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                    390 mL
   Urine:
                                                                  2,875 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -567 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   GEN
   CV
   PULM
   ABD
   EXTR
   Labs / Radiology
   452 K/uL
   10.7 g/dL
   157 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   20 mg/dL
   101 mEq/L
   141 mEq/L
   32.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
                            [**2201-11-27**]  03:21 AM
                            [**2201-11-27**]  04:48 PM
                            [**2201-11-28**]  04:31 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   15.3
   15.9
   Hct
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   30.5
   32.6
   Plt
   288
   288
   357
   348
   [**Telephone/Fax (2) 11105**]52
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   TCO2
   32
   Glucose
   103
   97
   98
   120
   144
   113
   143
   157
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   c.diff [**11-27**] - negative
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
   61 y/o male with PD/DBS's and h/o MVP, admitted with two days of ILI
   and difficulty breathing, now intubated for tachypnea/fatigue with
   pneumonia.
   #. Pneumonia/respiratory distress: intubated on [**11-20**] for respiratory
   fatigue/tachypnea. Tolerating ventilator well (see ABG
s), extubated
   [**11-25**].
   -- Continue cefepime (given GNR in sputum, to cover for pseudomonas)
   (started with ceftriaxone first on day of admission) and vancomycin
   (started [**11-23**]) (to cover MRSA pneumonia, given copious secretions)
   -- ipratropium and albuterol nebs prn
   -- f/u cultures from bronchoscopy ([**11-24**]), blood, sputum, urine
 all
   negative since [**11-21**]
   -- On [**11-24**], completed 5-day azithromycin course
   -- will closely monitor volume status and give Lasix prn as below.
   -- likely anxiety component to episodes of resp distress, will give
   Morphine prn.
   .
   #. Diarrhea:  Patient with loose stool, fever, leukocytosis.
   - send another c.diff
   .
   #. CARDIAC, VOLUME STATUS: evidence of volume overload on CXR, and
   patient has been receiving copious fluids, including 3L in ED.
   --Lasix given this AM as pt w. incr respiratory distress, wheezy on
   exam (? Cardiogenic wheeze), and pos fluid balance yesterday with
   improvement,
   -- will closely monitor volume status and give Lasix prn respiratory
   distress
   -- cont home ASA 81 mg and crestor
   .
   #. PARKINSON'S: Patient
s neurologist aware of his hospitalization
   she recommends avoiding all neuroleptics, and continuing all home
   Parkinson
s meds exactly on home schedule.
   -- cont home Sinemet, Tamsar, Mirapex
   -- f/u neuro recs (they came by to confirm the function of his b/l
   DBS
s on [**11-20**])
   .
   #. ANXIETY:
   -- cont home, Zoloft
   -- clonazepam 1mg po tid prn
   .
   # HEMATURIA: Patient with hematuria s/p Foley placement, U/S
   demonstrates clot. Improved. S/p 3-way Foley. Continuous bladder
   irrigation turned off.
   .
   #. ACCESS: Peripheral IV
s (2). Will consider PICC when afebrile x 2
   days.
   #. NUTRITION: Started tube feeds and RISS based on nutrition recs
   yesterday. Holding TF
s for now, given potential PM extubation. Check
   PM sodium, if still elevated, consider free water flush of 100mL q6h
   through NG tube.
   #. PPX: SQH, home PPI (formulary version), bowel regimen (needed d/t
   PD; had BM
s yesterday).
   #. CONTACT: With patient. Is married, wife is very involved and her
   phone #s are listed in personalized team census.
   #. DISPO: ICU for now given respiratory effort
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-26**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-11-28 12:00:00 Physician Attending Progress Note
Chief Complaint: Pnemonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this am
   24 Hour Events:
 BLOOD CULTURED - At [**2201-11-27**] 09:05 PM
 URINE CULTURE - At [**2201-11-27**] 09:05 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Mango Flavor
   Unknown; Hives;
   Chocolate Flavor
   Unknown; runny
   Last dose of Antibiotics:
   Cefipime - [**2201-11-27**] 06:00 PM
   Vancomycin - [**2201-11-28**] 08:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-11-27**] 04:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2201-11-28**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 67 (67 - 113) bpm
   BP: 107/58(69) {87/45(54) - 143/84(118)} mmHg
   RR: 20 (16 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,308 mL
                                                                    681 mL
   PO:
             TF:
                                                                    903 mL
                                                                    191 mL
   IVF:
                                                                    535 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,875 mL
                                                                    450 mL
   Urine:
                                                                  2,875 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -567 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   10.7 g/dL
   452 K/uL
   157 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   20 mg/dL
   101 mEq/L
   141 mEq/L
   32.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2201-11-21**]  03:48 AM
                             [**2201-11-22**]  04:16 AM
                             [**2201-11-23**]  03:40 AM
                             [**2201-11-24**]  02:50 AM
                             [**2201-11-25**]  03:12 AM
                             [**2201-11-25**]  01:38 PM
                            [**2201-11-26**]  02:23 AM
                            [**2201-11-27**]  03:21 AM
                            [**2201-11-27**]  04:48 PM
                            [**2201-11-28**]  04:31 AM
   WBC
   10.2
   10.6
   12.8
   13.4
   11.3
   13.6
   15.3
   15.9
   Hct
   33.8
   31.5
   33.7
   33.8
   33.4
   31.6
   30.5
   32.6
   Plt
   288
   288
   357
   348
   [**Telephone/Fax (2) 11105**]52
   Cr
   0.9
   1.1
   1.1
   1.0
   0.9
   1.0
   0.9
   0.9
   1.0
   TCO2
   32
   Glucose
   103
   97
   98
   120
   144
   113
   143
   157
   Other labs: PT / PTT / INR:14.4/34.2/1.2, Differential-Neuts:92.3 %,
   Lymph:3.5 %, Mono:3.2 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 TRANSFERS, IMPAIRED
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
   61 yo man with Parkinson's, PA-HTN on echo here with hypoxemic
   respiratory failure due to likely pneumonia
   Acute respiratory failure: Cont vanc/cefepime.  Less tachypneic.  nebs
   prn
   Fever: Fever curve trending down overall - Tmax 100.3.  WBC up - cont
   to monitor.
   Parkinson's:  meds through NGT.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2201-11-28**] 08:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-11-26**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: